US07691861B2
Preparation of 2-(2-Chloro-6-dimethylaminomethyl-naphthalen-1-yl)-acetamide
(2-Chloro-6-dimethylaminomethyl-naphthalen-1-yl)-acetic acid (276 mg, 0.99 mmol) is dissolved under an atmosphere of argon in DMF (3 ml). 1,1-Carbonyl diimidazole (177 mg, 1.09 mmol) is added, and the clear solution is stirred at RT for 3 h. A conc. aqueous solution of ammonia (25%, 6 ml) is added, and stirring is continued for 10 minutes at RT. TLC analysis indicates complete consumption of starting material. The reaction mixture is poured on water. The aqueous layer is extracted with EtOAc, which is then washed with brine and dried over Na2SO4. After removal of solvent, the residue is found to be pure title compound, with no need of purification. 1H NMR (d6-DMSO, 400 MHz): δ 2.18 (s, 6H), 3.53 (s, 2H), 4.08 (s, 2H), 6.96-7.08 (br, 2H), 7.48-7.68 (m, 2H), 7.78-7.86 (m, 2H), 7.96-8.00 (d, J=10 Hz, 1H). ES+-MS: 277.3, 279.2 [M+H]+.

reactant | (2-Chloro-6-dimethylaminomethyl-naphthalen-1-yl)-acetic acid | 0.99 mmol, 276 mg | ClC1=C(C2=CC=C(C=C2C=C1)CN(C)C)CC(=O)O | C15H16ClNO2
reactant | ammonia | 6 ml | N | H3N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-(2-Chloro-6-dimethylaminomethyl-naphthalen-1-yl)-acetamide | ClC1=C(C2=CC=C(C=C2C=C1)CN(C)C)CC(=O)N | C15H17ClN2O
